US07279576B2
To the solution of phenyl-urea (13.0 g, 95.48 mol) in THF (100 mL) was slowly added chlorocarbonyl sulfenylchloride (13 mL, 148.85 mmol) at RT. The reaction mixture was refluxed overnight, the volatiles removed in vacuo yielded 2-phenyl-1,2,4-thiadiazolidine-3,5-dione as a white solid (4.0 g, yield 20%). 1H NMR (DMSO-d6) δ:12.49 (s, 1H), 7.51 (d, J=8.0 Hz, 2H), 7.43 (t, J=7.6 Hz, 2H), 7.27 (t, J=7.2 Hz, 1 H).

reactant | phenyl-urea | 95.48 mol, 13.0 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | chlorocarbonyl sulfenylchloride | 148.85 mmol, 13 mL | ClC(=O)SCl | CCl2OS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-phenyl-1,2,4-thiadiazolidine-3,5-dione | 4.0 g, yield 20% | C1(=CC=CC=C1)N1SC(NC1=O)=O | C8H6N2O2S
